US05922880
To a solution of 0.44 g of 4-(3,3-dichloro-2-propenyloxy)-2,6-dichlorophenol, 0.20 g of 2-(2-hydroxyethyl)thiophene and 0.40 g of triphenylphosphine dissolved in 10 ml of tetrahydrofuran was added dropwise a solution of 0.31 g of diisopropyl azodicarboxylate dissolved in 5 ml of tetrahydrofuran, while stirring at room temperature. After stirring at room temperature for 12 hours, the reaction mixture was concentrated, to which 20 ml of diethyl ether was added, and the precipitate was filtered. The filtrate was concentrated, and the residue was subjected to silica gel chromatography, which afforded 0.38 g of 3,5-dichloro-4-(2-(2-thienyl)ethoxy)-1-(3,3-dichloro-2-propenyloxy)benzene (62% yield), nD25.6 1.5919.

reactant | 4-(3,3-dichloro-2-propenyloxy)-2,6-dichlorophenol | 0.44 g | ClC(=CCOC1=CC(=C(C(=C1)Cl)O)Cl)Cl | C9H6Cl4O2
reactant | 2-(2-hydroxyethyl)thiophene | 0.20 g | OCCC=1SC=CC1 | C6H8OS
reactant | triphenylphosphine | 0.40 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 0.31 g | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 3,5-dichloro-4-(2-(2-thienyl)ethoxy)-1-(3,3-dichloro-2-propenyloxy)benzene | 0.38 g, 62% yield | ClC=1C=C(C=C(C1OCCC=1SC=CC1)Cl)OCC=C(Cl)Cl | C15H12Cl4O2S
